US04226771
A mixture of 0.5 g of 7-chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide, 10 ml of ethanol, 5 ml of tetrahydrofuran and 0.4 g of sodium borohydride was stirred at ambient temperature for 1 hr. After partitioning between methylene chloride and aqueous sodium bicarbonate solution, the organic phase was dried and evaporated. Chromatography of the residue over 7 g of silica gel yielded 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-methoxy-1H-1,4-benzodiazepine-2-methanimine 4-oxide as light yellow resin.

reactant | 7-chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide | 0.5 g | ClC=1C=CC2=C(C(=[N+](CC(=N2)C(=NOC)[N+](=O)[O-])[O-])C2=C(C=CC=C2)F)C1 | C17H12ClFN4O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-methoxy-1H-1,4-benzodiazepine-2-methanimine 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(N2)C=NOC)[O-])C2=C(C=CC=C2)F)C1 | C17H15ClFN3O2
